US04205003
A. Diethyl [5-(4-Chlorophenyl)furfurylidene]malonate
Diethyl malonate (88 g, 0.55 mole) and 5-(p-chlorophenyl)-2-furaldehyde (104 g, 0.50 mole) were placed in 1.0 liter of benzene containing benzoic acid (10 g) and piperidine (18 ml). The 2.0 liter flask was equipped with a Dean-Stark trap for water removal, and the mixture was refluxed for 4 hours on a steam bath. The mixture was concentrated to an oil under reduced pressure. Washing the residue with benzene (500 ml) yielded a dark solid which was recrystallized from cyclohexane yielding yellow product (111 g, 64% yeild), m.p. 78°-80°.

reactant | Diethyl malonate | 0.55 mole, 88 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-(p-chlorophenyl)-2-furaldehyde | 0.50 mole, 104 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7ClO2
reactant | benzoic acid | 10 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 18 ml | N1CCCCC1 | C5H11N
solvent | benzene | 1.0 liter | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Diethyl [5-(4-Chlorophenyl)furfurylidene]malonate | ClC1=CC=C(C=C1)C1=CC=C(C=C(C(=O)OCC)C(=O)OCC)O1 | C18H17ClO5
